US03959471
A solution of 15 g. of dibenzoylmethane and 43.5 g. of M-methylurea in 250 ml. of glacial acetic acid is refluxed for 8 hours while dry hydrogen chloride gas is bubbled through the reaction mixture. An additional amount of 5 equivalents of N-methylurea is then added and refluxing continued for another 8 hours while bubbling hydrogen chloride through the reaction system. The N-methylurea addition is again repeated and refluxing procedure continued for a further 8 hours. The resulting mixture is filtered and the filtrate evaporated in vacuo to dryness. The residue is taken up with methylene chloride, treated with 2N. sodium hydroxide and the methylene chloride layer separated. The aqueous layer is extracted three times with methylene chloride. All methylene chloride fractions are combined and extracted several times with water, dried, filtered and evaporated in vacuo to dryness. The residue is crystallized from methylene chloride/diethyl ether to obtain 1-methyl-4,6-diphenylpyrimidin-2(1H)-one, m.p. 183°-185°C.

reactant | dibenzoylmethane | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | hydrogen chloride | Cl | ClH
reactant | N-methylurea | 5 equivalents | CNC(=O)N | C2H6N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-methyl-4,6-diphenylpyrimidin-2(1H)-one | CN1C(N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H14N2O
